US07605164B2
A mixture of 1 eq. (175 mg, 0.402 mmol) of 4-fluoro-N-[3-iodo-5-(pyridin-3-yloxy)-phenyl]-benzamide 1.15 eq. (170 mg, 0.463 mmol) of 2-tributyltinpyridine, and 0.04 eq. (11 mg, 0.10 mmol) of bis-(triphenylphosphine)dichloropalladium in 2 mL of THF was irradiated for in a microwave for 10 minutes an 170° C. The reaction mixture was filtered and concentrated in vacuo. Purification by chromatography over silica with 50% EtOAC/Hexane to 75% EtOAc/Hexane as the gradient eluant afforded 30 mg of a solid (4-fluoro-N-[3-pyridin-2-yl-5-(pyridin-3-yloxy)-phenyl]-benzamide, (19% yield). Mpt 160-162° C. MS (M+1) 386.1.

reactant | 4-fluoro-N-[3-iodo-5-(pyridin-3-yloxy)-phenyl]-benzamide | 0.402 mmol, 175 mg, 1 eq. | FC1=CC=C(C(=O)NC2=CC(=CC(=C2)OC=2C=NC=CC2)I)C=C1 | C18H12FIN2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | bis-(triphenylphosphine)dichloropalladium | 0.10 mmol, 11 mg, 0.04 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-fluoro-N-[3-pyridin-2-yl-5-(pyridin-3-yloxy)-phenyl]-benzamide | 19% yield | FC1=CC=C(C(=O)NC2=CC(=CC(=C2)OC=2C=NC=CC2)C2=NC=CC=C2)C=C1 | C23H16FN3O2
